US08536176B2
(2) tert-Butyl 4-[6-(4-methanesulfonylphenoxymethyl)-pyridazin-3-yl]-3,6-dihydro-2H-pyridine-1-carboxylate
To a solution of 3-chloro-6-(4-methanesulfonylphenoxymethyl)pyridazine (79 mg, 0.26 mmol) and tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylate (82 mg, 0.26 mmol) in dry N,N-dimethylformamide (3 mL) was added tetrakis(triphenylphosphine)palladium (9.0 mg, 7.9 μmol) and cesium carbonate (129 mg, 0.397 mmol). The mixture was stirred at 80° C. for 2 hours, allowed to cool to room temperature, poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/ethyl acetate=10/1 and hexane/ethyl acetate=1/2) to give the title compound as a white crystal (16 mg, yield 14%).

reactant | 3-chloro-6-(4-methanesulfonylphenoxymethyl)pyridazine | 0.26 mmol, 79 mg | ClC=1N=NC(=CC1)COC1=CC=C(C=C1)S(=O)(=O)C | C12H11ClN2O3S
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylate | 0.26 mmol, 82 mg | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | cesium carbonate | 0.397 mmol, 129 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 7.9 μmol, 9.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 4-[6-(4-methanesulfonylphenoxymethyl)-pyridazin-3-yl]-3,6-dihydro-2H-pyridine-1-carboxylate | 16 mg, yield 14% | CS(=O)(=O)C1=CC=C(OCC2=CC=C(N=N2)C=2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C22H27N3O5S
